US08217064B2
2-Isobutylmalonic acid diethyl ester (40.0 g, 0.185 mol) in DMF (50 mL) was added dropwise to a stirred suspension of sodium hydride (60% in mineral oil, 8.0 g, 0.33 mol) in 200 mL DMF (200 mL) over 20 min. at 0° C. under nitrogen. The mixture was stirred for 0.5 h at room temperature, cooled to 0° C. and 1,2,4-trifluoro-5-nitro-benzene (30.0 g, 169.5 mmol) in DMF (150 mL) was added dropwise. The resulting reaction mixture was stirred at room temperature for 16 h, poured into ice water (200 mL) and extracted with EtOAc (3×100 mL). The combined organic phases were washed with water (3×100 mL), brine (100 mL) and dried (MgSO4). Evaporation of solvent under reduced pressure gave a brown oil which was purified by column chromatography over silica gel (Heptane-EtOAc, gradient) to give 57.0 g (90%) of 2-(2,5-difluoro-4-nitrophenyl)-2-isobutylmalonic acid diethyl ester as yellow oil. 1H NMR (300 MHz, CDCl3/TMS): δ 7.87 (dd, J=12.3, 6.0 Hz, 1H), 7.79 (dd, J=10.1, 6.4 Hz, 1H), 4.30-4.18 (m, 4H), 2.27 (d, J=5.8 Hz, 2H), 1.60-1.50 (m, 1H), 1.26 (t, J=7.1 Hz, 6H), 0.82 (d, J=7.0 Hz, 6H); 13C NMR (75 MHz, CDCl3/TMS): δ 168.2, 155.1 (d, 1JCF=252.3 Hz), 150.9 (d, 1JCF=263.2 Hz), 135.7, 135.1, 120.0 (dd, 2JCF=26.0, 3JCF=4.0 Hz), 113.0 (d, 2JCF=29.0 Hz), 62.3, 43.1, 24.9, 23.8, 13.8.

reactant | 2-Isobutylmalonic acid diethyl ester | 0.185 mol, 40.0 g | C(C)OC(C(C(=O)OCC)CC(C)C)=O | C11H20O4
reactant | sodium hydride | 0.33 mol, 8.0 g | [H-].[Na+]
reactant | 1,2,4-trifluoro-5-nitro-benzene | 169.5 mmol, 30.0 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-(2,5-difluoro-4-nitrophenyl)-2-isobutylmalonic acid diethyl ester | 57.0 g, 90% | C(C)OC(C(C(=O)OCC)(CC(C)C)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F)=O | C17H21F2NO6
